US06825190B2
{4-[3-(3-Bromo-phenyl)-benzo[c]isoxazol-5-yl]-pyrimidin-2-yl}-carbamic acid ethyl ester (Compound I-A55)
To a stirring solution of 4-[3-(3-bromophenyl)-benzo[c]isoxazol-5-yl]-pyrimidin-2-ylamine (75 mg; 0.205 mmol) in 1 mL of p-dioxane and 0.5 mL of DMSO, was added 40 μL (45.6 mg, 0.42 mmol) of ethyl chloroformate followed by 73 μL (54.3 mg, 0.42 mmol) of diisopropylethylamine. The reaction was stirred at 50° C., in a sealed vessel, for 8 hours. The solvents were removed under vacuo and the crude material was purified via HPLC with acetonitrile/water/TFA as the eluent. The material was isolated as a yellow powder (30 mg, 32% yield). 1H NMR (500 MHz, DMSO-d6) δ 10.5 (br s,1H), 8.9 (s, 1H), 8.75 (d, 1H), 8.35 (m, 3H), 8.3(s, 1H), 8.0 (d, 1H), 7.89 (t, 2H), 7.65 (t, 1H), 4.2 (q, 2H), 1.26 (t, 3H) in ppm. LC-MS (ES+) m/e=439/441 (M+H)

reactant | 4-[3-(3-bromophenyl)-benzo[c]isoxazol-5-yl]-pyrimidin-2-ylamine | 0.205 mmol, 75 mg | BrC=1C=C(C=CC1)C1=C2C(=NO1)C=CC(=C2)C2=NC(=NC=C2)N | C17H11BrN4O
reactant | ethyl chloroformate | 0.42 mmol, 40 μL, 45.6 mg | ClC(=O)OCC | C3H5ClO2
reactant | diisopropylethylamine | 0.42 mmol, 73 μL, 54.3 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | p-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | {4-[3-(3-Bromo-phenyl)-benzo[c]isoxazol-5-yl]-pyrimidin-2-yl}-carbamic acid ethyl ester | 30 mg, 32% yield | C(C)OC(NC1=NC=CC(=N1)C1=CC=2C(=NOC2C2=CC(=CC=C2)Br)C=C1)=O | C20H15BrN4O3
